US08071796B2
A suspension of 0.27 mol Mn and 0.01 mol ZnCl2 in 105 ml THF is heated to reflux. 0.01 mol 3-bromo-2-methyl-1-propene is added to the boiling mixture and after 30 minutes a solution of 0.11 mmol ethyl-trifluoropyruvate and 0.18 mol 2-bromo-2-methyl-1-propene in 90 ml THF is dropped to the reaction mixture within 2.5 hours. After 3 hours under reflux the mixture is stirred for 19 hours at room temperature. The reaction mixture is poured on 90 ml of a saturated NH4Cl and ice mixture. After vigorous stirring for 30 minutes the mixture is extracted four times with 110 ml of MTBE each. The combined organic extracts are washed with 30 ml of brine, dried over magnesiumsulfate and concentrated in vacuo. The residue is destined under reduced pressure. ethyl-2-hydroxy-4-methyl-2-(trifluoromethyl)pentenoate is obtained in 73% yield.

reactant | 3-bromo-2-methyl-1-propene | 0.01 mol | BrCC(=C)C | C4H7Br
reactant | ethyl-trifluoropyruvate | 0.11 mmol | C(C)OC(C(=O)C(F)(F)F)=O | C5H5F3O3
reactant | NH4Cl | 90 ml | [NH4+].[Cl-]
solvent | THF | 105 ml | C1CCOC1 | C4H8O
solvent | THF | 90 ml | C1CCOC1 | C4H8O
catalyst | ZnCl2 | 0.01 mol | [Cl-].[Cl-].[Zn+2]
product | ethyl-2-hydroxy-4-methyl-2-(trifluoromethyl)pentenoate | 73% yield | C(C)OC(C(C=C(C)C)(C(F)(F)F)O)=O | C9H13F3O3
